US09315491B2
4-(2,6-Dichloro-5-methylsulfanyl-pyrimidin-4-yl)-morpholine
A mixture of 2,4,6-trichloro-5-methylsulfanyl-pyrimidine (4.0 g, 17.4 mmol.), morpholine (2.3 g, 26.1 mmol, 1.5 eq.) and THF (20 ml) was stirred at room temperature for 2.0 hr. The reaction mixture was dried and the solvent was evaporated. Thereafter, a 0.1 N HCl washing free morpholine was added to the solution. The solution was extracted with EA and the EA in the solution was removed by evaporation. A crude product was obtained. Purification of the crude by flash chromatography on silica gel (Hexane/EtOAc 6:1) gave a gray solid of 2.34 g (48.2%).

reactant | 2,4,6-trichloro-5-methylsulfanyl-pyrimidine | 17.4 mmol, 4.0 g | ClC1=NC(=C(C(=N1)Cl)SC)Cl | C5H3Cl3N2S
reactant | morpholine | 26.1 mmol, 2.3 g, 1.5 eq. | N1CCOCC1 | C4H9NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-(2,6-Dichloro-5-methylsulfanyl-pyrimidin-4-yl)-morpholine | ClC1=NC(=C(C(=N1)N1CCOCC1)SC)Cl | C9H11Cl2N3OS
